US07851623B2
Sodium tert-pentoxide (33.52 g) was added to mesitylene (280 ml) and the mixture heated to 50° C. To the suspension was added ethyl acetoacetate (39.61 g) over 10 minutes. The reaction mixture exothermed to about 60° C. The thick slurry was heated to 70° C. and 1,2,3-trifluoro-4-nitrobenzene (25.0 g) added. The mixture exothermed to 80° C. The mixture was held at 70-80° C. for 3 hours, then allowed to cool to ambient and left overnight. To the mixture was added hydrochloric acid (6% w/w, 100 ml), until the pH reached 1. The aqueous layer was separated and discarded and the organic layer washed twice with hydrochloric acid 6% w/w, 90 ml), then with aqueous sodium bicarbonate (2.3% w/w, 37.5 ml) and finally water (75 ml). To the organic layer was added further mesitylene (53 ml) and the mixture distilled on a rotary evaporator (10 mbar, bath 60° C.) to give a solution of ethyl 2-(2,3-difluoro-6-nitrophenyl)-3-oxobutanoate in mesitylene (90 ml containing 36.22 g of ethyl 2-(2,3-difluoro-6-nitrophenyl)-3-oxobutanoate).

reactant | Sodium tert-pentoxide | 33.52 g | CCC(C)(C)[O-].[Na+]
reactant | mesitylene | 280 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | ethyl acetoacetate | 39.61 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 1,2,3-trifluoro-4-nitrobenzene | 25.0 g | FC1=C(C(=C(C=C1)[N+](=O)[O-])F)F | C6H2F3NO2
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | ethyl 2-(2,3-difluoro-6-nitrophenyl)-3-oxobutanoate | FC1=C(C(=CC=C1F)[N+](=O)[O-])C(C(=O)OCC)C(C)=O | C12H11F2NO5
